Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G4P2 ___ s/p VBAC c/b preeclampsia and chorio
presenting to ED with abd pain.  Started yesterday.  Comes and
goes every 5 min.  Feels like ctx pain.  Cramping in quality.
Starts in epigastrum and radiates down.  Notes increase in
bleeding yesterday with yellowish color and foul smell.  Denies
fever, chills.  Denies dysuria, flank pain.  Emesis x1 in the
setting of pain.  Denies nausea.  Denies constipation.  Notes
loose stool this AM.  Denies sick contacts, baby healthy.  Not
breastfeeding, denies breast pain or erythema.  Denies
alleviating or exacerbating factors.  Tried taking Tylenol and
ibuprofen without improvement. 
 
Past Medical History:
OBHx:
- G1: stat pLTCS for fetal bradycardia; c/b severe preeclampsia,
infant weight 1980g (4#6) 
- G2: TAB with D&E at 17weeks
- G3: SAB
- G4: VBAC

GynHx:
- denies abnormal Pap, fibroids, Gyn surgery, STIs
 
PMHx: asthma 
PSHx: LTCS, D&E
 
Meds: PNV, albuterol  
All: NKDA 

 
Social History:
SocHx: denies T/E/D; former MJ use 
 
Physical Exam:
Physical Exam at Admission
98.3 (99.0)  72  132/86  18  100%RA
Gen: A&O, comfortable
Abd: soft, nondistended, notable fundal tenderness, no
rebound/guarding 
SSE: pink vaginal mucosa, scant foul smelling lochia, cervix
parous without lesions, no purulence 
SVE: 16 cm size mobile uterus with fundal tenderness, +CMT, no
adnexal masses or tenderness
Ext: no calf tenderness

Physical Exam at Discharge
Fluid Balance (last updated ___ 631)
  Last 8 hours No data found
  Last 24 hours  Total cumulative 471ml
    IN: Total 471ml, PO Amt 360ml, IV Amt Infused 111ml
    OUT:  Total 0ml

24 HR Data (last updated ___ @ ___
    Temp: 98.7 (Tm 98.9), BP: 119/78 (117-125/77-80), HR: 82
(72-82), RR: 16 (___), O2 sat: 99% (98-99), O2 delivery: RA

PE:
General: NAD, A&Ox3
Lungs: No respiratory distress, normal work of breathing
Abd: soft, nontender, non-distended, fundus firm at 3cm below
umbilicus, no RUQ tenderness
Lochia: minimal
Extremities: no calf tenderness

 
Pertinent Results:
___ 07:03PM   PLT COUNT-487*#
___ 07:03PM   PLT COUNT-487*#
___ 07:03PM   NEUTS-65.9 ___ MONOS-7.2 EOS-1.3 
BASOS-0.4 IM ___ AbsNeut-6.45* AbsLymp-2.39 AbsMono-0.70 
AbsEos-0.13 AbsBaso-0.04
___ 07:03PM   WBC-9.8 RBC-3.33* HGB-8.9* HCT-27.9*# MCV-84 
MCH-26.7 MCHC-31.9* RDW-15.7* RDWSD-47.8*
___ 07:03PM   estGFR-Using this
___ 07:03PM   GLUCOSE-78 UREA N-12 CREAT-0.5 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-103 TOTAL CO2-20* ANION GAP-17
___ 09:13PM   LACTATE-0.8
___ 10:40PM URINE  MUCOUS-RARE*
___ 10:40PM URINE  MUCOUS-RARE*
___ 10:40PM URINE  RBC-4* WBC-54* BACTERIA-FEW* YEAST-NONE 
EPI-2
___ 10:40PM URINE  BLOOD-SM* NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG*
___ 10:40PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 10:40PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 10:40PM URINE  COLOR-Straw APPEAR-Hazy* SP ___
___ 10:40PM URINE  UHOLD-HOLD
___ 10:40PM URINE  UHOLD-HOLD
___ 10:40PM URINE  HOURS-RANDOM
___ 10:40PM URINE  HOURS-RANDOM
___ 05:35AM   PLT COUNT-449*
___ 05:35AM   PLT COUNT-449*
___ 05:35AM   NEUTS-52.7 ___ MONOS-8.1 EOS-2.0 
BASOS-0.4 IM ___ AbsNeut-4.21 AbsLymp-2.88 AbsMono-0.65 
AbsEos-0.16 AbsBaso-0.03
___ 05:35AM   WBC-8.0 RBC-3.16* HGB-8.4* HCT-26.9* MCV-85 
MCH-26.6 MCHC-31.2* RDW-15.6* RDWSD-48.7*
___ 05:35AM   URIC ACID-5.1
___ 05:35AM   URIC ACID-5.1
___ 05:35AM   URIC ACID-5.1
___ 05:35AM   CREAT-0.6
 
Brief Hospital Course:
Ms. ___ presented to the emergency room on ___ reporting 
contraction like abdominal pain, with notable fundal tenderness 
and malodorous lochia. Given her prior diagnosis 
chorioamnionitis, she was admitted for IV antibiotics and 
observation with a presumptive diagnosis of recurrent 
endometritis. She was started on a course of IV 
ampicillin/sulbactam for 24 hours. She remained afebrile, her 
malodorous lochia improved, her fundal tenderness improved, and 
she was transition to oral amoxicillin/clavulanate. She was 
discharged home on HD 2 with a 7 day course of augmentin. 
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Mild Pain 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg ___ 
tablet(s) by mouth every 6 hours as needed Disp #*50 Tablet 
Refills:*2 
2.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth tiwce per day Disp #*13 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
post-partum endometritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___:

You were admitted to the post-partum service after with concern 
for a uterine infection (endometritis). You received IV 
antibiotics, and you have recovered well and the team believes 
you are ready to be discharged home. 

General instructions:
* Take your medications as prescribed.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* Nothing in the vagina (no tampons, no douching, no sex) for 6 
weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___